US04076741
Chlorine gas is passed through a flow meter into a solution of α,α,α-trifluoro-p-cresol (4.05 g. 0.025 mole) in ethylene dichloride (200 ml.) at 0° C. until the theoretical volume has been absorbed. The solvent is stripped off and the residue distilled to give 2-chloro-α,α,α-trifluoro-p- cresol (3.5 g. 71%) b.p. 80°-82° C. at 33 mm.

reactant | Chlorine | ClCl | Cl2
reactant | α,α,α-trifluoro-p-cresol | 0.025 mole, 4.05 g | FC(C=1C=CC(=CC1)O)(F)F | C7H5F3O
solvent | ethylene dichloride | 200 ml | C(CCl)Cl | C2H4Cl2
product | 2-chloro-α,α,α-trifluoro-p- cresol | 3.5 g, 71% | ClC1=CC(=CC=C1O)C(F)(F)F | C7H4ClF3O
